US06235789B1
1-Benzyloxycarbonyl-N-[2-(6-methoxyindan-1-yl)ethyl]-4-piperidinecarboxamide
To a solution of 1-(2-aminoethyl)-6-methoxyindan (1.00 g, 5.23 mmol), 1-benzyloxycarbonyl-4-piperidinecarboxylic acid (1.38 g, 5.23 mmol) and 1-hydroxy-1H-benzotriazole (0.78 g, 5.75 mmol) in DMF (20 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSC; 1.10 g, 5.75 mmol). The mixture was stirred for 6 hours at room temperature. To the reaction mixture was added water, and the mixture was subjected to extraction with ethyl acetate. The extract solution was washed with brine, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (chloroform/methanol, 95:5) to give 2.10 g (yield 92%) of the above-titled compound, m.p.132-133° C. (recrystallized from ethyl acetate/isopropyl ether).

reactant | 1-(2-aminoethyl)-6-methoxyindan | 5.23 mmol, 1.00 g | NCCC1CCC2=CC=C(C=C12)OC | C12H17NO
reactant | 1-benzyloxycarbonyl-4-piperidinecarboxylic acid | 5.23 mmol, 1.38 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | 1-hydroxy-1H-benzotriazole | 5.75 mmol, 0.78 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5.75 mmol, 1.10 g | Cl.C(C)N=C=NCCCN(C)C
reactant | ethyl acetate isopropyl ether | C(C)(=O)OCC.C(C)(C)OC(C)C
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Benzyloxycarbonyl-N-[2-(6-methoxyindan-1-yl)ethyl]-4-piperidinecarboxamide | 2.10 g, yield 92% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)NCCC1CCC2=CC=C(C=C12)OC | C26H32N2O4
